US08648099B2
a) 5-(4-Cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester
In a 50 mL 4-necked flask, methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate (1 g, 3.18 mmol, Eq: 1.00, CAN 1211589-51-3) and cesium carbonate (3.11 g, 9.55 mmol, Eq: 3) were combined with toluene (25 ml) and water (2.8 ml) to give a colorless solution. The reaction mixture was 3× degassed and purged with argon; then palladium(II) acetate (14.3 mg, 63.7 μmol, Eq: 0.02), potassium (4-cyanophenyl)trifluoroborate (732 mg, 3.5 mmol, Eq: 1.1, CAN 850623-36-8) and butyldi-1-adamantylphosphine (68.5 mg, 191 μmol, Eq: 0.06) were successively added. The degassing-purging cycle was repeated after each addition. The reaction mixture was then heated to 120° C. for 5 hours. After cooling, the reaction mixture was poured into 50 mL H2O and extracted with AcOEt (2×50 mL). The organic layers were washed with H2O/NaCl solution, combined, dried over Na2SO4 and concentrated in vacuo. Purification by flash chromatography (silica gel, 50 g, 50% to 100% CH2Cl2 in heptane) yielded finally 898 mg of the title compound as white foam; MS (EI) 337.2 (M+H)+.

reactant | methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate | 3.18 mmol, 1 g | BrC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7BrF3NO3
reactant | cesium carbonate | 9.55 mmol, 3.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium (4-cyanophenyl)trifluoroborate | 3.5 mmol, 732 mg | C(#N)C1=CC=C(C=C1)[B-](F)(F)F.[K+]
catalyst | palladium(II) acetate | 63.7 μmol, 14.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | butyldi-1-adamantylphosphine | 191 μmol, 68.5 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
solvent | H2O | 50 mL | O | H2O
solvent | water | 2.8 ml | O | H2O
product | 5-(4-Cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester | 898 mg | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C#N)OCC(F)(F)F)=O | C16H11F3N2O3
